US07642269B2
Step 1: 7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine
4-(4-Fluorobenzyloxy)-3-nitropyridine (4.8 g, 19.34 mmol) prepared in Preparation 2 was dissolved in anhydrous tetrahydrofuran (200 ml) under a nitrogen atmosphere. 1-Methyl-1-propenyl magnesium bromide (0.5M in tetrahydrofuran solution, 116 ml, 58.02 mmol) was added at −78° C. to the solution, which was then stirred for 5 hours at −20° C. 20% Ammonium chloride solution (20 ml) was added to the reaction mixture, which was then extracted with ethyl acetate (200 ml) twice. The separated organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/methylene chloride/methanol=10/10/1, (v/v/v)) to give the titled compound as a pale yellow solid (2.45 g, 28.3%).

reactant | 4-(4-Fluorobenzyloxy)-3-nitropyridine | 19.34 mmol, 4.8 g | FC1=CC=C(COC2=C(C=NC=C2)[N+](=O)[O-])C=C1 | C12H9FN2O3
reactant | 1-Methyl-1-propenyl magnesium bromide | 58.02 mmol, 0.5M, 116 ml | CC(=CC)[Mg]Br
reactant | Ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7-(4-fluorobenzyloxy)-2,3-dimethyl-1H-pyrrolo[3,2-b]pyridine | 2.45 g, 28.3% | FC1=CC=C(COC2=C3C(=NC=C2)C(=C(N3)C)C)C=C1 | C16H15FN2O
